US07851463B2
4-Cyclopropyl-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide
0.3 g of 4-bromo-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide (0.71 mmol), 0.079 g of cyclopropylboronic acid (0.92 mmol), 0.526 g of potassium phosphate (2.48 mmol) and 0.02 g of ricyclohexylphosphin were dissolved in a mixture of 4 ml of toluene and 2 ml of water. After addition of 0.008 g of palladium(II)-acetate (0.04 mmol), the reaction mixture was stirred for 1 h at 100° C. in the microwave (CEM). The solution was decanted, the remaining suspension containing the catalyst washed again with ethyl acetate, the combined solvent extracts evaporated to dryness, redissolved in ethyl acetate and washed with water. The aqueous phase was reextracted once with ethyl acetate, the organic layers combined, dried over magnesium sulfate, filtered and evaporated under reduced pressure. The crude product was purified via silica gel chromatography with dichloromethane, dichloromethane-methanol (5.5%). Fractions containing the product were combined, the solvent removed, to yield 0.066 g of the title product.

reactant | 4-bromo-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide | 0.71 mmol, 0.3 g | BrC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1CN(CC1)CCC | C19H23BrN2O2S
reactant | cyclopropylboronic acid | 0.92 mmol, 0.079 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 2.48 mmol, 0.526 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 ml | O | H2O
catalyst | palladium(II)-acetate | 0.04 mmol, 0.008 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Cyclopropyl-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide | 0.066 g | C1(CC1)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1CN(CC1)CCC | C22H28N2O2S
